US07259266B2
Step 2. Preparation of ethyl 6-chloro-5-amino-2-(trifluoromethyl)-2H-chromene-3-carboxylate
To the suspension of stannous chloride hydrate (5.5 g, 24.1 mmol) in 150 mL of methanol was added at room temperature ethyl 6-chloro-5-azido-2-(trifluoromethyl)-2H-chromene-3-carboxylate (5.6 g, 16.1 mmol) in one portion. The reaction mixture gradually turned yellowish. After stirred at room temperature for about 45 min, the reaction turned a clear yellow solution. The volatiles were then removed. The residue was dissolved in EtOAc, and the resulting organic solution was washed with 5% sodium hydroxide solution (×4), brine, and dried over anhydrous magnesium sulfate. After removing the solvents, the residue was purified on silica gel column with 3:7 EtOAc/hexane, it gave 3.2 g of yellow solid. A small fraction of the product was further purified on reverse phase HPLC, it provided a yellow solid. LC-MS(ES+) 322.2(M+1, 100). 1H NMR (CDCl3/400 MHz) 7.80(s, 1H), 7.16(d, J=8.8 Hz, 1H), 6.35(d, J=8.8 Hz, 1H), 5.65(q, J=7.2 Hz, 1H), 4.31(m, 2H), 1.34(t, J=7.2 Hz, 3H). 19F NMR(CDCl3/400 MHz) −78.55(d, J=7.4 Hz). 13C NMR(CDCl3/300 Mhz) 164.1, 152.8, 141.3, 133.1, 131.7, 123.7(q, J=287.7 Hz), 115.2, 113.4, 107.2, 106.6, 70.3(q, J=33.2 Hz), 61.7, 14.5. MS(ES+) 322.1(M+1, 75%), HRMS(EI+) m/z calc for (C13H11ClF3NO3): 321.0380 (M+), found, 321.0359(M+).

reactant | ethyl 6-chloro-5-azido-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 16.1 mmol, 5.6 g | ClC=1C(=C2C=C(C(OC2=CC1)C(F)(F)F)C(=O)OCC)N=[N+]=[N-] | C13H9ClF3N3O3
solvent | methanol | 150 mL | CO | CH4O
product | ethyl 6-chloro-5-amino-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 3.2 g | ClC=1C(=C2C=C(C(OC2=CC1)C(F)(F)F)C(=O)OCC)N | C13H11ClF3NO3
